US06281227B1
D. 2,2,2-Trifluoro-N-{1-[2-(4-nitrophenyl)-ethyl]-2-oxopyrrolidin-3-(S)-yl}-acetamide
The title compound is prepared in CH2Cl2 instead of CH3CN as described in EXAMPLE 1, Part K using 3-(S)-amino-1-[2-(4-nitrophenyl)-ethyl]-pyrrolidin-2-one hydrochloride as the starting material and trifluoroacetic anhydride in place of 7-methoxynaphthalene-2-sulfonyl chloride. The crude product is concentrated in vacuo and used as is in the subsequent step.

reactant | 3-(S)-amino-1-[2-(4-nitrophenyl)-ethyl]-pyrrolidin-2-one hydrochloride | Cl.N[C@@H]1C(N(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-])=O
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-{1-[2-(4-nitrophenyl)-ethyl]-2-oxopyrrolidin-3-(S)-yl}-acetamide | FC(C(=O)N[C@@H]1C(N(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C14H14F3N3O4
